US09126970B2
Step c): 12-(4,6-Diphenyl-1,3,5-triazin-2-yl)-7-thia-12-azaindeno[1,2-a]-fluorene
15.1 g (55.4 mmol) of 12H-7-thia-12-azaindeno[1,2-a]fluorene are dissolved in 315 ml of dimethylformamide under a protective-gas atmosphere, and 2.4 g of 60% NaH in mineral oil (61 mmol) are added. After 1 h at room temperature, a solution of 2-chloro-[4,6-bisphenyl]-1,3,5-triazine (17.8 g, 66.5 mmol) in 80 ml of dimethylformamide is added dropwise. The reaction mixture is stirred at room temperature for 12 h. After this time, the reaction mixture is poured onto ice and extracted three times with dichloromethane. The combined organic phases are dried over Na2SO4 and evaporated. The residue is recrystallised from toluene. The yield after sublimation is 23.8 g (47.1 mmol, 85%) with a purity of 99.9%.

reactant | 12H-7-thia-12-azaindeno[1,2-a]fluorene | 55.4 mmol, 15.1 g | C1=CC=CC=2C=3C=CC4=C(C3NC12)C1=CC=CC=C1S4 | C18H11NS
reactant | NaH | 2.4 g | [H-].[Na+]
reactant | 2-chloro-[4,6-bisphenyl]-1,3,5-triazine | 66.5 mmol, 17.8 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
solvent | dimethylformamide | 315 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 12-(4,6-Diphenyl-1,3,5-triazin-2-yl)-7-thia-12-azaindeno[1,2-a]-fluorene | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)N1C=2C=CC=CC2C=2C=CC3=C(C12)C1=CC=CC=C1S3 | C33H20N4S
